US04812476
A mixture of (R)-3-hydroxybutanoic acid (7.8 g), 3-phenylpropionaldehyde (6.71 g) and pyridinium toluene-4-sulphonic acid (ca. 10 mmol %) in dichloromethane (300 ml) was stirred, under reflux, for 48 hours with removal of water. The reaction mixture was cooled to room temperature, washed three times with saturated sodium bicarbonate, dried (MgSO4) and evaporated under reduced pressure. The residue was crystallised from ether/pentane to give (2R,6R)-2-(2'-phenylethyl)-6-methyl-1,3-dioxan-4-one (7.0 g), m.p. 49.7°-50.9° C.; [α]DR.T. =15.2(c=1.05; CHCl3).

reactant | (R)-3-hydroxybutanoic acid | 7.8 g | O[C@@H](CC(=O)O)C | C4H8O3
reactant | 3-phenylpropionaldehyde | 6.71 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | pyridinium toluene-4-sulphonic acid | ca. 10 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (2R,6R)-2-(2'-phenylethyl)-6-methyl-1,3-dioxan-4-one | 7.0 g | C1(=CC=CC=C1)CC[C@@H]1O[C@@H](CC(O1)=O)C | C13H16O3
